US07566699B2
6′-Hydroxy-2′-(methoxycarbonylmethoxy)acetophenone
To a mixture of 2′,6′-dihydroxyacetophenone (6 g) and potassium carbonate (5.72 g) in acetone (20 mL) was added methyl bromoacetate (3.73 mL), and the mixture was stirred at room temperature for 5 days. To the reaction mixture was added water, and the precipitated crystals were collected by filtration. The crystals were washed with water and dried under reduced pressure to give the title compound (7.89 g).

reactant | 2′,6′-dihydroxyacetophenone | 6 g | OC1=C(C(=CC=C1)O)C(C)=O | C8H8O3
reactant | potassium carbonate | 5.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 3.73 mL | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 6′-Hydroxy-2′-(methoxycarbonylmethoxy)acetophenone | 7.89 g | OC1=CC=CC(=C1C(C)=O)OCC(=O)OC | C11H12O5
